US09278983B2
To a mixture of 2-(2-ethylsulfanyl-4-fluorophenyl)-3-methyl-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine (0.85 g) and chloroform (12 ml), 3-chloroperbenzoic acid (purity: not less than 65%, 0.81) was added under ice-cooling, heated to room temperature, and stirred for 30 minutes. Into the reaction mixture, saturated aqueous sodium hydrogen carbonate solution and saturated aqueous sodium thiosulfate solution were poured, and extracted with chloroform. The organic layer was dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography to give 0.33 g of 2-(2-ethylsulfinyl-4-fluorophenyl)-3-methyl-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine (hereinafter referred to as Present Compound 117) and 0.52 g of 2-(2-ethylsulfonyl4-fluorophenyl)-3-methyl-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine (hereinafter referred to as Present Compound 118).

reactant | 2-(2-ethylsulfanyl-4-fluorophenyl)-3-methyl-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine | 0.85 g | C(C)SC1=C(C=CC(=C1)F)C1=NC=2C(=NC=C(C2)C(F)(F)F)N1C | C16H13F4N3S
reactant | 3-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 12 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(2-ethylsulfinyl-4-fluorophenyl)-3-methyl-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine | 0.33 g | C(C)S(=O)C1=C(C=CC(=C1)F)C1=NC=2C(=NC=C(C2)C(F)(F)F)N1C | C16H13F4N3OS
